US07592361B2
Preparation of 5-(benzyloxy)-3-methyl-1H-indole
To a solution of 5-benzyloxyindole (19.8 g, 88.68•mmol) in THF (200 mL) pre-cooled with an ice bath, was added a 3.0 M solution of ethyl magnesium bromide in diethyl ether (44.3 mL, 133.02 mmol). The ice bath was removed and the resulting mixture was gradually warmed to rt over 5 h. The reaction mixture was cooled to 0° C. and iodomethane (37.8 g, 266.04 mmol) was added. The mixture was warmed to rt and stirred for 12 h. The reaction mixture was quenched by the addition of saturated aqueous ammonium chloride solution (50 mL). The reaction mixture was diluted with diethyl ether (150 mL), and then washed with water and a brine solution consecutively. The combined organic layers were dried over magnesium sulfate, filtered, and then concentrated via rotary evaporation to give a dark brownish solid. The crude mixture was purified on silica gel (95:5 hexane:dichloromethane) to give the title compound (12.6 g, 60%) as a brown solid. 1H NMR (400 MHz, CDCl3) δ 7.79 (br s, 1H), 7.50 (d, 2H), 7.45 (m, 3H), 7.32 (s, 1H), 7.11 (d, 1H), 6.95 (m, 2H), 5.13 (s, 2H), 2.31 (s, 3H).

reactant | 5-benzyloxyindole | 19.8 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | diethyl ether | 133.02 mmol, 44.3 mL | C(C)OCC | C4H10O
reactant | iodomethane | 266.04 mmol, 37.8 g | IC | CH3I
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-(benzyloxy)-3-methyl-1H-indole | 12.6 g, 60% | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C | C16H15NO
